US09253997B2
Synthesis of 3-({[(2S)-2-amino-3-methoxy-3-oxopropyl]carbamoyl}amino)benzene-1-sulfonic acid
To 127 mg (0.5 mmol) of (2S)-3-amino-2-{[(tert-butoxy)carbonyl]amino}propanoic acid methylester hydrochloride, 87 mg (0.5 mmol) of 3-aminobenzenesulfonic acid and 97 mg (0.6 mmol) of N,N-carbonyl diimidazole, 1 ml of methylene chloride and 1 ml of tetrahydrofuran were added and stirred at room temperature overnight. After distilling the solvent away, purification was carried out using purification step A to obtain a crude purified substance of the title compound in protected form. To the obtained crude purified substance, 1 ml of methylene chloride and 1 ml of trifluoroacetic acid were added and stirred at room temperature for 5 hours. After distilling the solvent away, purification was carried out by purification step A to obtain the title compound.

reactant | (2S)-3-amino-2-{[(tert-butoxy)carbonyl]amino}propanoic acid methylester hydrochloride | 0.5 mmol, 127 mg | Cl.COC([C@H](CN)NC(=O)OC(C)(C)C)=O
reactant | 3-aminobenzenesulfonic acid | 0.5 mmol, 87 mg | NC=1C=C(C=CC1)S(=O)(=O)O | C6H7NO3S
reactant | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 3-({[(2S)-2-amino-3-methoxy-3-oxopropyl]carbamoyl}amino)benzene-1-sulfonic acid | N[C@@H](CNC(=O)NC=1C=C(C=CC1)S(=O)(=O)O)C(=O)OC | C11H15N3O6S
